US07501412B2
2-Cyanomethyl-5-methylbenzoic acid (16.3 g) and dimethylformamide (0.1 mL) were suspended in tetrahydrofuran (160 mL), and oxalyl dichloride (12.2 mL) was added dropwise under ice-cooling. After cease of foaming, the solvent was evaporated. The obtained residue was dissolved in tetrahydrofuran, and the solution was added dropwise to 28% aqueous ammonia solution under ice-cooling. After the completion of the reaction, the solvent was evaporated, and the precipitated crystals were collected by filtration to give 2-cyanomethyl-5-methylbenzamide (10.9 g).

reactant | 2-Cyanomethyl-5-methylbenzoic acid | 16.3 g | C(#N)CC1=C(C(=O)O)C=C(C=C1)C | C10H9NO2
reactant | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | oxalyl dichloride | 12.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
product | 2-cyanomethyl-5-methylbenzamide | 10.9 g | C(#N)CC1=C(C(=O)N)C=C(C=C1)C | C10H10N2O
